US04292449
A suspension of 17.4 g (0.30 mol) of flame-dried KF in 500 ml of diglyme was stirred at 5° while 86.1 g (0.26 mol) of perfluoro-2-phenoxypropionyl fluoride prepared by reaction of a metal salt of pentafluorophenol with HFPO) was added dropwise. The mixture was stirred for 30 min at 5°, after which the KF had partially dissolved. Then 69.0 g (0.30 mol) of perfluoroallyl fluorosulfate was added dropwise, and the mixture was stirred at 5°-10° for 3 hr. The cooling bath was removed, and the mixture was stirred overnight. The reaction mixture was then drowned in 2 l. of water, and the lower layer was washed with 1 l., then with 500 ml of water, dried over CaSO4, filtered and distilled to afford 20.8 g (17%) of perfluoro-6-phenoxy-4-oxa-1-heptene, bp 68°-75° (10 mm). A late fraction was analyzed. IR (neat): 5.58 (CF=CF2), 6.57 and 6.80 (arom. C=C), 7.5-9 IR (neat): 5.58 (CF=CF2), 6.57 and 6.80 (arom. C=C), 7.5-9μ (CF, C=O) with a weak peak at 5.64 (-OCF=CFCF3). NMR (CCl4) : 19F -77.8 (d of d of t of d, JFF 25.5, 13.7, ~13, 7.2 Hz, 2F, OCF2C=), -79.8 (m, 3F, CF3), -83.0 (m, 2F, CF2O), -91.7 (d of d of t, JFF 52.0, 39.2, 7.2 Hz, 1F, cis-CF2CF=CFF), -105.1 (d of d of t, JFF 118.0, 52.0, 25.5 Hz, 1F, trans-CF2CF=CFF), -139.9 (t of m, JFF 18.7 Hz, 1F, CF), -150.8 (m, 2F, arom. CF), -156.1 (t, JFF 21.0 Hz, 1F, arom. CF), -162.3 (m, 2F, arom. CF), and -190.6 ppm (d of d of t of t, JFF 118.0, 39.2, 13.7, 1.6 Hz, 1F, CF2CF=). Impurity bands ascribable to the isomer C6F5OCF(CF3)CF2OCF=CFCF3 were also present.

reactant | KF | 0.30 mol, 17.4 g | [F-].[K+]
reactant | perfluoro-2-phenoxypropionyl fluoride | 0.26 mol, 86.1 g | FC(C(=O)F)(C(F)(F)F)OC1=C(C(=C(C(=C1F)F)F)F)F | C9F10O2
reactant | pentafluorophenol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | perfluoroallyl fluorosulfate | 0.30 mol, 69.0 g | S(=O)(=O)(OC(C(=C(F)F)F)(F)F)F | C3F6O3S
solvent | diglyme | 500 ml | COCCOCCOC | C6H14O3
product | perfluoro-6-phenoxy-4-oxa-1-heptene | 20.8 g, 17% | FC(=C(C(OC(C(C(F)(F)F)(OC1=C(C(=C(C(=C1F)F)F)F)F)F)(F)F)(F)F)F)F | C12F16O2
